US08633211B2
Cyclobutanecarboxylic acid (2-{1-[(5-chloro-2,4-dimethoxy-phenylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl}-ethyl)-amide
To a suspension of 2-[3-(2-Amino-ethyl)-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-yl]-N-(5-chloro-2,4-dimethoxy-phenyl)-acetamide trifluoroacetate (75 mg, 0.17 mmol) in THF (1 ml), triethylamine is added (0.06 ml, 0.43 mmol) followed cyclobutane carbonyl chloride (30 mg, 0.26 mmol). The mixture is stirred overnight at RT. Water (3 ml) and then EtOAc is added to the mixture to give a suspension which is filtered to remove the solid. The filtrate is washed with water, dried and evaporated to afford the title compound, [M+H]+ 515

reactant | 2-[3-(2-Amino-ethyl)-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-yl]-N-(5-chloro-2,4-dimethoxy-phenyl)-acetamide trifluoroacetate | 0.17 mmol, 75 mg | FC(C(=O)O)(F)F.NCCN1C(N(C2=CC=CC=C2C1=O)CC(=O)NC1=C(C=C(C(=C1)Cl)OC)OC)=O
reactant | cyclobutane carbonyl chloride | 0.26 mmol, 30 mg | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | Water | 3 ml | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | Cyclobutanecarboxylic acid (2-{1-[(5-chloro-2,4-dimethoxy-phenylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl}-ethyl)-amide | ClC=1C(=CC(=C(C1)NC(=O)CN1C(N(C(C2=CC=CC=C12)=O)CCNC(=O)C1CCC1)=O)OC)OC | C25H27ClN4O6
